### PR TITLE
[Merged by Bors] - feat: cardinality of `Field.Emb` for algebraic extensions of infinite separable degree

### PR DESCRIPTION
**Pull request by alreadydone**
We show that the number of embeddings of an algebraic extension E/F with infinite `sepDegree F E` is equal to `2 ^ sepDegree F E`.

Since `separableClosure F E` has the same number of F-embeddings as E, we may assume E/F is separable, so `sepDegree F E = Module.rank F E` ([E:F]).

The first part of the proof (up to `two_le_deg`) shows the existence of a transfinite filtration of E/F by subextensions of length equal to [E:F], such that each step is finite and nontrivial (has degree at least 2).

The second part (up to `embEquivPi`) shows the embeddings of these subextensions form an inverse system satisfying the conditions of `InverseSystem.globalEquiv`, and therefore the number of embeddings of E/F is equal to the product of the degrees of the steps.

We conclude the file with five theorems stating the main result for separable and general algebraic extensions, incorporating the finite case or not.

[Zulip](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Separability.20degree.3F/near/411486335)

---

I think @digama0 @sterraf @YaelDillies @vihdzp might be interested to review this. Are you aware of other similar proofs formalized in mathlib or elsewhere? Is there anything general (about the transfinite recursion setup?) that can be extracted?

Lots of notations are introduced as shorthands in the file; if you see a way to improve them, please let me know.

- [x] depends on: #9488
- [x] depends on: #11290
- [x] depends on: #18067

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Cardinal/FieldEmb.lean [hunk 1]
```diff
@@ -0,0 +1,634 @@
...
+
+# Number of field embeddings of an infinite extension into the algebraic closure
+
+We show that if `E/F` is an infinite-dimensional separable algebraic extension, then
+`#(Field.Emb F E) = 2 ^ Module.rank F E`.
+
+This is in contrast to the finite-dimensional case, where `#Field.Emb F E = Module.rank F E`
+without the power of two (see `Field.finSepDegree_eq_finrank_of_isSeparable`.)
+
+We use a transfinite recursive construction that is fairly standard in set theory, but I have
```
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/SetTheory/Cardinal/FieldEmb.lean:20]: I use "the author" below but forgot to change this ...

File: Mathlib/SetTheory/Cardinal/FieldEmb.lean [hunk 2]
```diff
@@ -0,0 +1,634 @@
...
+@[elab_as_elim]
+def SuccOrder.limitRecOn {ι} [PartialOrder ι] [WellFoundedLT ι] [SuccOrder ι]
+    {C : ι → Sort*} (i : ι)
+    (H_succ : ∀ i, ¬IsMax i → C i → C (i⁺))
+    (H_lim : ∀ i, IsSuccLimit i → (∀ j < i, C j) → C i) : C i :=
+  wellFounded_lt.fix
+    (fun i IH ↦ if h : IsSuccLimit i then H_lim i h IH else
+      let x := Classical.indefiniteDescription _ (not_isSuccLimit_iff.mp h)
+      x.2.2 ▸ H_succ x x.2.1 (IH x <| x.2.2.subst <| lt_succ_of_not_isMax x.2.1))
+    i
```
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/SetTheory/Cardinal/FieldEmb.lean:86]: Yes!

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/SetTheory/Cardinal/FieldEmb.lean]: Feel free to request my review on the order theory PRs!

**Review by vihdzp — COMMENTED** [review]
I'm really sorry I can't give a thorough review! Field theory is not my forte.

File: Mathlib/SetTheory/Cardinal/FieldEmb.lean [hunk 3]
```diff
@@ -0,0 +1,606 @@
+/-
+Copyright (c) 2024 Junyan Xu. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Junyan Xu
+-/
+import Mathlib.FieldTheory.MvPolynomial
```
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/SetTheory/Cardinal/FieldEmb.lean:6]: I agree; will move to FieldTheory/Cardinal.

File: Mathlib/SetTheory/Cardinal/FieldEmb.lean [hunk 4]
```diff
@@ -0,0 +1,606 @@
...
+`InverseLimit` section below.
+-/
+
+open Cardinal Module.Free Set Order IntermediateField
+
+universe u v
+
+noncomputable section
+
+local notation i"⁺" => succ i -- Note: conflicts with `PosPart` notation
```
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/SetTheory/Cardinal/FieldEmb.lean:59]: I think it makes sense to enable it for any SuccOrder, but it's already used by PosPart. Here it's used as the successor function in an ordinal.

**Review by alreadydone — COMMENTED** [review]
Thanks for the review! I'll also try to migrate from `toType` to `Iio`.

File: Mathlib/LinearAlgebra/FreeAlgebra.lean [hunk 5]
```diff
@@ -8,6 +8,7 @@ import Mathlib.Algebra.FreeAlgebra
 import Mathlib.LinearAlgebra.FreeModule.Basic
 import Mathlib.LinearAlgebra.FinsuppVectorSpace
 import Mathlib.LinearAlgebra.FreeModule.StrongRankCondition
+import Mathlib.LinearAlgebra.Dimension.Constructions
 import Mathlib.LinearAlgebra.Dimension.StrongRankCondition
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/FreeAlgebra.lean:12]: This is tagged large-import but this file is almost a leaf file (only imported by `Mathlib.LinearAlgebra.TensorAlgebra.Basis`) and I think it's pretty reasonable to import `Algebra.adjoin` into it.

Comment (YaelDillies) [reply Mathlib/LinearAlgebra/FreeAlgebra.lean:12]: Yes I agree. It's only two files that are seeing their imports increase by 60-70. I wouldn't worry much until they get used more

File: Mathlib/Order/SuccPred/InverseSystem.lean
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/InverseSystem.lean:1]: Are you planning on splitting that off to a separate PR?

Comment (alreadydone) [reply Mathlib/Order/SuccPred/InverseSystem.lean:1]: I wasn't since this split-off part is still pretty specific to the purpose of this PR; but this file contains no algebra so maybe more people can review ...

Comment (YaelDillies) [reply Mathlib/Order/SuccPred/InverseSystem.lean:1]: Yeah, I certainly can review this half, but not really the other half

Comment (alreadydone) [reply Mathlib/Order/SuccPred/InverseSystem.lean:1]: Thanks! Opened #18067

**Comment by acmepjz** [comment]
Great work! Maybe you should change the title to "infinite algebraic extensions". Meanwhile I'm working on transcendental extensions (I only intend to prove `Infinite` but not going to compute the exact cardinality).

I'll look at this more closely later.

File: Mathlib/FieldTheory/CardinalEmb.lean [hunk 6]
```diff
@@ -0,0 +1,344 @@
...
+import Mathlib.FieldTheory.PurelyInseparable
+import Mathlib.LinearAlgebra.FreeAlgebra
+import Mathlib.Order.Interval.Set.WithBotTop
+import Mathlib.Order.DirectedInverseSystem
+
+/-!
+# Number of embeddings of an infinite algebraic field extension into the algebraic closure
+
+We show that if `E/F` is an infinite-dimensional algebraic extension, then
+`#(Field.Emb F E) = 2 ^ Field.sepDegree F E`. If `E/F` is moreover separable, then
```
Comment (acmepjz) [inline Mathlib/FieldTheory/CardinalEmb.lean:16]: According to the main result, this holds only if `Field.sepDegree F E` is infinite. So you should say "an algebraic extension with infinite separable degree".

File: Mathlib/FieldTheory/CardinalEmb.lean [hunk 7]
```diff
@@ -0,0 +1,344 @@
...
+namespace Cardinal
+
+noncomputable section
+
+set_option quotPrecheck false
+
+/-- Index a basis of E/F using the initial ordinal of the cardinal `Module.rank F E`. -/
+local notation "ι" => (Module.rank F E).ord.toType
+
+private local instance : SuccOrder ι := SuccOrder.ofLinearWellFoundedLT ι
```
Comment (acmepjz) [inline Mathlib/FieldTheory/CardinalEmb.lean:78]: Does this private local instance used in the *declarations* of the public theorems in this file? If yes, then these results can't be used by other files due to missing instance.

There are also some other private instances below.

File: Mathlib/LinearAlgebra/FreeAlgebra.lean [hunk 8]
```diff
@@ -45,3 +45,15 @@ theorem rank_eq [CommRing R] [Nontrivial R] :
...
+
+theorem Algebra.rank_adjoin_le {R : Type u} {S : Type v} [CommRing R] [Ring S] [Algebra R S]
+    (s : Set S) : Module.rank R (adjoin R s) ≤ max #s ℵ₀ := by
+  rw [adjoin_eq_range_freeAlgebra_lift]
+  cases subsingleton_or_nontrivial R
+  · rw [rank_subsingleton]; exact one_le_aleph0.trans (le_max_right _ _)
+  rw [← lift_le.{max u v}]
+  refine (lift_rank_range_le (FreeAlgebra.lift R ((↑) : s → S)).toLinearMap).trans ?_
+  rw [FreeAlgebra.rank_eq, lift_id'.{v,u}, lift_umax.{v,u}, lift_le, max_comm]
+  exact mk_list_le_max _
```
Comment (acmepjz) [inline Mathlib/LinearAlgebra/FreeAlgebra.lean:59]: I have results similar to this:

```lean
-- TODO: should be also true with `Semiring A`
-- TODO: move to suitable place
theorem _root_.Algebra.lift_card_adjoin_le
    (R : Type u) {A : Type v} [CommSemiring R] [CommSemiring A] [Algebra R A] (s : Set A) :
    Cardinal.lift.{u} (Cardinal.mk (Algebra.adjoin R s)) ≤
    max (max (Cardinal.lift.{v} (Cardinal.mk R)) (Cardinal.lift.{u} (Cardinal.mk s)))
      Cardinal.aleph0 := by
  rw [Algebra.adjoin_eq_range]
  have h := Cardinal.lift_mk_le_lift_mk_of_surjective
    (MvPolynomial.aeval (R := R) (σ := s) Subtype.val).rangeRestrict_surjective
  rw [Cardinal.lift_umax, Cardinal.lift_id'.{v, u}] at h
  exact h.trans MvPolynomial.cardinal_lift_mk_le_max

-- TODO: move to suitable place
theorem _root_.IntermediateField.lift_card_adjoin_le
    (F : Type u) {E : Type v} [Field F] [Field E] [Algebra F E] (s : Set E) :
    Cardinal.lift.{u} (Cardinal.mk (adjoin F s)) ≤
    max (max (Cardinal.lift.{v} (Cardinal.mk F)) (Cardinal.lift.{u} (Cardinal.mk s)))
      Cardinal.aleph0 := by
  rw [(FractionRing.algEquiv (Algebra.adjoin F s) (adjoin F s)).toEquiv.symm.cardinal_eq,
    FractionRing.card (Algebra.adjoin F s)]
  exact Algebra.lift_card_adjoin_le F s
```

But maybe they should go to another PR.

**Review by acmepjz — COMMENTED** [review]
Looks good! Unfortunately I can't check the mathematical details.

Do you think it's necessary to expose the proof step to public? If not, I think we can mark them as `private`.

File: Mathlib/FieldTheory/CardinalEmb.lean (hunk 7 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/CardinalEmb.lean:78]: I think as long as the types of declarations don't require the instance, they can still be used outside of this file, though I don't expect them to be. My main motivation for not making them private is so that they show up in the documentation, so the reader gets a flavor of the proof without reading the code; otherwise the documentation will only contain the last 5 theorems (the main results). I've enclosed everything other than the main results in the namespace `Field.Emb.Cardinal` that probably will never be opened, so they are effectively private.

**Review by alreadydone — COMMENTED** [review]
Thanks for the review!

File: Mathlib/FieldTheory/CardinalEmb.lean [hunk 9]
```diff
@@ -0,0 +1,344 @@
...
+
+theorem equivSucc_coherence (i f) : (equivSucc i f).1 = embFunctor F E (le_succ i) f := by
+  cases i; exacts [rfl, succEquiv_coherence _ f]
+
+section Lim
+
+variable {i : WithTop (Module.rank F E).ord.toType} -- WithTop ι doesn't work
+
+theorem directed_filtration : Directed (· ≤ ·) fun j : Iio i ↦ filtration j.1 :=
+    (filtration.monotone.comp <| Subtype.mono_coe _).directed_le
```
Comment (alreadydone) [inline Mathlib/FieldTheory/CardinalEmb.lean:244]:
```suggestion
  (filtration.monotone.comp <| Subtype.mono_coe _).directed_le
```

File: Mathlib/FieldTheory/CardinalEmb.lean (hunk 7 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/CardinalEmb.lean:78]: There are only a few declarations whose types mention `succ`: `filtration_succ, succEquiv, succEquiv_coherence, equivSucc, equivSucc_coherence`. Even these won't stop to work in a new file, as they'll carry the private local instance with them. There are only one more private local instance (`Decidable`) in this file, and aother non-private local instance (`NoMaxOrder`). The main reason for making the `SuccOrder` and `Decidable` instances private is that they're type-valued and I don't want to add docstrings to them. I can certainly make them non-private and add docstrings if you want.

Comment (acmepjz) [reply Mathlib/FieldTheory/CardinalEmb.lean:78]: > I can certainly make them non-private and add docstrings if you want.

No, I have no preferences on them. Feel free to decide by yourself.

File: Mathlib/LinearAlgebra/FreeAlgebra.lean (hunk 8 above)
Comment (acmepjz) [reply Mathlib/LinearAlgebra/FreeAlgebra.lean:59]: I think `Algebra.lift_card_adjoin_le` should just go above or below your result `Algebra.rank_adjoin_le` (not sure, as it needs to import some files about cardinal). I'm not sure where `IntermediateField.lift_card_adjoin_le` goes.

Comment (alreadydone) [reply Mathlib/LinearAlgebra/FreeAlgebra.lean:59]: > I think `Algebra.lift_card_adjoin_le` should just go above or below your result `Algebra.rank_adjoin_le` (not sure, as it needs to import some files about cardinal).

Yeah probably. You can use [FreeAlgebra.equivMonoidAlgebraFreeMonoid](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/FreeAlgebra.html#FreeAlgebra.equivMonoidAlgebraFreeMonoid) to prove `Cardinal.mk_freeAlgebra` (`FreeAlgebra.cardinal_eq`) but you still need to import `mk_finsupp` (`mk_list` is already imported).

> I'm not sure where `IntermediateField.lift_card_adjoin_le` goes.

```
import Mathlib
theorem x : True := 
  have := @IntermediateField.adjoin.{0,0}
  have := @MvPolynomial.cardinal_mk_le_max.{0}
  trivial
#find_home x
```
suggests Mathlib.FieldTheory.Cardinality.

Comment (acmepjz) [reply Mathlib/LinearAlgebra/FreeAlgebra.lean:59]: `Mathlib.FieldTheory.Cardinality` sounds a good file. I'll add them once #18004 is merged. Meanwhile, would you like to split your changes to `Mathlib/LinearAlgebra/FreeAlgebra.lean` as a small PR?

File: Mathlib/FieldTheory/CardinalEmb.lean [hunk 10]
```diff
@@ -0,0 +1,342 @@
...
+
+/-!
+# Number of embeddings of an algebraic extension of infinite separable degree
+
+We show that if `E/F` is an algebraic extension of infinite separable degree, then
+`#(Field.Emb F E) = 2 ^ Field.sepDegree F E`. If `E/F` is moreover separable, then
+`#(Field.Emb F E) = 2 ^ Module.rank F E`. This is in contrast to the case of finite
+separable degree, where `#(Field.Emb F E) = Module.rank F E`.
+
+We use a transfinite recursive construction that is fairly standard in set theory, but the author
```
Comment (jcommelin) [inline Mathlib/FieldTheory/CardinalEmb.lean:20]:
```suggestion
## Implementation details

We use a transfinite recursive construction that is fairly standard in set theory, but the author
```
Or maybe "Sketch of the proof", or something like that.

Could you please also add a `## Main results` where you give the name of the result?

File: Mathlib/LinearAlgebra/FreeAlgebra.lean (hunk 8 above)
Comment (jcommelin) [reply Mathlib/LinearAlgebra/FreeAlgebra.lean:59]: What is the status here? Is this now resolved?

Comment (alreadydone) [reply Mathlib/LinearAlgebra/FreeAlgebra.lean:59]: I think @acmepjz's results haven't been PR'd yet.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada: 

If CI passes, please remove the label `awaiting-CI` and merge this yourself, by adding a comment `bors r+`.

bors d+

File: Mathlib/LinearAlgebra/FreeAlgebra.lean (hunk 8 above)
Comment (acmepjz) [reply Mathlib/LinearAlgebra/FreeAlgebra.lean:59]: > What is the status here? Is this now resolved?

No worries. It is just a discussion.

**Comment by alreadydone** [comment]
Thanks!
bors r+
